US07141669B2
Preparation of 2-(2-chlorophenyl)-6-(2,2,2-trifluoroethyl)-3-(4-(trifluoromethyl)phenyl)-2H-pyrazolo[4,3-d]pyrimidin-7(6H)-one (2A-2)
To a stirred mixture of 2-(2-chlorophenyl)-3-(4-(trifluoromethyl)phenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-ol (I-2A-2b: 100 mg, 0.26 mmol) and Cs2CO3(85 mg, 0.26 mmol) in DMF (1.5 ml) was added a DMSO solution (0.1 ml) of 2,2,2-trifluoroethyl trifluoromethanesulfonate (60 mg, 0.26 mmol). After stirring overnight, the reaction mixture was extracted from water with ethyl acetate. The organic solution was washed with half saturated aqueous NaCl and then concentrated in vacuo. The crude residue was purified on a Biotage™ Flash 12S column using 20% ethyl acetate in hexanes as eluant to give the title compound 2A-2 (65 mg, 53%) as a solid: +ES MS (M+1) 473.4; 1H NMR (CD3OD) δ 8.17 (s, 1H), 7.73–7.52 (m, 8H), 4.83 (q, J=9.1 Hz, 2H).

reactant | 2-(2-chlorophenyl)-3-(4-(trifluoromethyl)phenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-ol | 0.26 mmol, 100 mg | ClC1=C(C=CC=C1)N1N=C2C(N=CN=C2O)=C1C1=CC=C(C=C1)C(F)(F)F | C18H10ClF3N4O
reactant | Cs2CO3 | 0.26 mmol, 85 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMSO | 0.1 ml | CS(=O)C | C2H6OS
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.26 mmol, 60 mg | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 2-(2-chlorophenyl)-6-(2,2,2-trifluoroethyl)-3-(4-(trifluoromethyl)phenyl)-2H-pyrazolo[4,3-d]pyrimidin-7(6H)-one | ClC1=C(C=CC=C1)N1N=C2C(N=CN(C2=O)CC(F)(F)F)=C1C1=CC=C(C=C1)C(F)(F)F | C20H11ClF6N4O
